US07968542B2
Synthesis of 5-hydrazinocarbonylthiophene-2-carboxylic acid (5-methylpyrazin-2-ylmethyl)amide
Methyl 5-(5-methylpyrazin-2-ylmethylcarbamoyl)thiophene-2-carboxylate (304 mg, 1.04 mmol) in methanol (3 mL) was stirred with hydrazine monohydrate at 60° C. for 12 hours. After addition of chloroform, it was stirred at room temperature for 5 hours. The precipitated solid was recovered by filtration to give the desired product, 5-hydrazinocarbonylthiophene-2-carboxylic acid (5-methylpyrazin-2-ylmethyl)amide (yield 72%).

reactant | Methyl 5-(5-methylpyrazin-2-ylmethylcarbamoyl)thiophene-2-carboxylate | 1.04 mmol, 304 mg | CC=1N=CC(=NC1)CNC(=O)C1=CC=C(S1)C(=O)OC | C13H13N3O3S
reactant | hydrazine monohydrate | O.NN
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3 mL | CO | CH4O
product | 5-hydrazinocarbonylthiophene-2-carboxylic acid (5-methylpyrazin-2-ylmethyl)amide | yield 72% | CC=1N=CC(=NC1)CNC(=O)C=1SC(=CC1)C(=O)NN | C12H13N5O2S
